.subckt XOR node_a node_b node_out vdd gnd
   X10 node_a node_b node_x vdd gnd NAND
   X11 node_a node_x node_y vdd gnd NAND
   X12 node_b node_x node_z vdd gnd NAND
   X13 node_y node_z node_out vdd gnd NAND
.ends XOR